US05616586
9-Bromo-5-benzylmethylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (150 mg, 0.44 mmol) and benzylmethylamine (65 μL, 0.5 mmol) to give 170 mg of the title compound (87%): mp 120°~125° C.; 1H NMR (270 MHz, DMSO-d6) δ12.09 and 12.04 (two s, 1H), 7.10~7.41 (m, 7H), 5.09~5.21 (m, 1H), total 2H of 4.63 (s), 4.58 (d, J=16.2 Hz), and 4.47 (d, J=16.2 Hz), 2.95~3.12 (m, 1H), J=2.92 and 2.82 (two s, 3H), 2.78 (dm, 1H, J=17.1 Hz), 2.61~2.73 (m, 2H), 2.22 (dm, 1H, J=13.5 Hz), 1.79~1.94 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.44 mmol, 150 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | benzylmethylamine | 0.5 mmol, 65 μL | C(C1=CC=CC=C1)CN | C8H11N
product | 9-Bromo-5-benzylmethylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 170 mg, 87% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NCCC2=CC=CC=C2)=O | C21H20BrN3O3
